US07615555B2
3-{4-[5-(Methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-one
3-Chloropropiophenone (860 mg) was added to a mixture of 5-(methylsulfonyl)-1-piperidin-4-yl-1H-benzimidazole (1.395 g) and potassium carbonate (1.38 g) in DMF (30 ml) and stirred for 2 days. The reaction mixture was evaporated to dryness and the residue was dissolved in dichloromethane (20 ml), washed with water (15 ml) and brine (15 ml), dried and evaporated to dryness to give the title compound, yield 2.07 g, M+H 412, NMR (CDCl3) 2.2 (m, 4H) 2.3-2.4 (m, 2H) 2.9 (m, 2H) 3.1 (s, 3H) 3.2-3.3 (m, 4H) 4.3 (m, 1H) 7.5 (m, 2H) 7.6 (m, 2H) 7.9 (m, 2H) 8.0 (m, 1H) 8.2 (s, 1H) 8.4 (s, 1H).

reactant | 3-Chloropropiophenone | 860 mg | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | 5-(methylsulfonyl)-1-piperidin-4-yl-1H-benzimidazole | 1.395 g | CS(=O)(=O)C1=CC2=C(N(C=N2)C2CCNCC2)C=C1 | C13H17N3O2S
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-{4-[5-(Methylsulfonyl)-1H-benzimidazol-1-yl]piperidin-1-yl}-1-phenylpropan-1-one | CS(=O)(=O)C1=CC2=C(N(C=N2)C2CCN(CC2)CCC(=O)C2=CC=CC=C2)C=C1 | C22H25N3O3S
